US05391553
9-Benzylamino-6-(1,1,dimethylethyl)-1,2,3,4-tetrahydroacridine
9-Chloro-6-(1,1-dimethylethyl)-1,2,3,4-tetrahydroacridine (3.0 g) was dissolved in 60 ml of phenol and heated at 150° C. with 3.54 g of benzylamine. After 2 hours the reaction mixture was poured into 10% NaOH and extracted with Et2O. The organic phase was separated, washed with H2O, and then treated with 5% HCl. The insoluble hydrochloride was filtered off and recrystallized from isopropanol/ether and then from methanol/ether to give 2.09 g of product, m.p. 247° (d).

reactant | 9-Chloro-6-(1,1-dimethylethyl)-1,2,3,4-tetrahydroacridine | 3.0 g | ClC=1C2=CC=C(C=C2N=C2CCCCC12)C(C)(C)C | C17H20ClN
reactant | benzylamine | 3.54 g | C(C1=CC=CC=C1)N | C7H9N
reactant | NaOH | [OH-].[Na+]
solvent | phenol | 60 ml | C1(=CC=CC=C1)O | C6H6O
product | 9-Benzylamino-6-(1,1,dimethylethyl)-1,2,3,4-tetrahydroacridine | 2.09 g | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCCC12)C(C)(C)C | C24H28N2
